Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___
 
Chief Complaint:
Subdural hemorrhage with herniation
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ year old male with medical history 
notable for ?seizure disorder who presented to ___ 
with seizure, acute hypoxic respiratory failure requiring 
intubation, and new subdural hematoma with ___ 
transferred to ___ for further evaluation.

Per review of OSH course, ___ had a witnessed seizure and 
was brought to the OSH. On arrival, he was AAOx3, however on 
subsequent evaluation was noted to no longer be following 
commands, was bradycardic, and was in respiratory distress. He 
was emergently intubated with versed, succinylcholine, and 
etomidate and NCHCT was obtained which was notable for subdural 
hemorrhage with subfalcine herniation. He was sedated with 
propofol, loaded with keppra and transferred to ___ ED for 
further evaluation.  

In ED initial VS: 72 128/79 18 99% Intubation  
Exam: 7mm pupils b/l nonreactive, b/l clonus in ___ was given:  nicardipine gtt, propofol, and mannitol
Imaging notable for:  
-NCHCT:
1. Left frontoparietal convexity subdural hematoma measuring up 
to 1.2 cm in greatest thickness with midline shift to the right 
up to 1.5 cm, with progression since prior.  There is subfalcine 
herniation, left uncal herniation and tonsillar herniation. 
2. Contusions in the left frontoparietal region. 
3. No other sites of intra-axial hemorrhage. 
4. Left parieto-occipital nondisplaced calvarial fracture with 
associated large scalp hematoma. 
-CXR:
ET tube terminates 1.9 cm above the carina. NG tube terminates 
in the proximal stomach.
Consults:  
-Neurosurgery: "This is a devastating hemorrhage with no 
meaningful survivability, no indication for surgical 
intervention. Recommend admission for goals of care discussion."
-Chaplain for anointing of the sick

VS prior to transfer: HR57 BP111/65 16 100%  
 
On arrival to the MICU, ___ is intubated and non-responsive. 
 
Spoke to family member's ___ and ___ over the phone.  
They will come to the hospital tomorrow.  They report the 
___ wife will be flying to ___ from ___ on 
___.

REVIEW OF SYSTEMS: Unable to obtain secondary to intubation

 
Past Medical History:
?possible seizure disorder
asthma
?possible ependymoma
 
Social History:
___
Family History:
Unable to obtain.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
GENERAL: intubated, non-responsive 
HEENT: pupils fixed and dilated, no corneal reflex, no gag or 
cough relfex
NECK: no JVD
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema   
NEURO: L pupil 7mm NR, R pupil 6mm NR. No corneal reflex. Not 
overbreathing vent, no cough, no gag. No motor. No withdrawal to 
pain. 

DISCHARGE PHYSICAL EXAM:
=======================
EXPIRED
 
Pertinent Results:
ADMISSION LABS:
==============
___ 12:22AM BLOOD WBC-9.4 RBC-4.62 Hgb-13.4* Hct-41.0 
MCV-89 MCH-29.0 MCHC-32.7 RDW-13.0 RDWSD-42.0 Plt ___
___ 12:22AM BLOOD ___ PTT-29.5 ___
___ 12:22AM BLOOD Glucose-187* UreaN-12 Creat-0.8 Na-136 
K-5.9* Cl-93* HCO3-27 AnGap-16
___ 12:22AM BLOOD ALT-16 AST-58*
___ 12:22AM BLOOD Calcium-9.6 Phos-3.0 Mg-2.0
___ 10:15AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 12:22AM URINE Color-Straw Appear-Clear Sp ___
___ 12:22AM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-150* Ketone-NEG Bilirub-NEG Urobiln-NEG pH-8.5* 
Leuks-NEG
___ 12:22AM URINE RBC-<1 WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-0
___ 10:15AM URINE bnzodzp-POS* barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

DISCHARGE LABS:
==============
EXPIRED

MICROBIOLOGY:
============
NONE

STUDIES/REPORTS:
================
___ BRAIN DEATH SCAN
FINDINGS:  Following injection of tracer, blood flow images show 
no evidence of blood flow to the brain. Delayed images show 
evidence of no tracer uptake in the brain. 
IMPRESSION:  Findings consistent with brain death. 

___ CT HEAD W/O CONTRAST
1. Left frontoparietal convexity subdural hematoma measuring up 
to 1.2 cm in greatest thickness with midline shift to the right 
up to 1.5 cm, with 
progression since prior.  There is subfalcine herniation, left 
uncal 
herniation and tonsillar herniation. 
2. Contusions in the left frontoparietal region. 
3. No other sites of intra-axial hemorrhage. 
4. Left parieto-occipital nondisplaced calvarial fracture with 
associated 
large scalp hematoma. 

 
Brief Hospital Course:
___ with PMHx ?seizure disorder p/w seizure and fall to OSH on 
___. Upon presentation to OSH ED, he was initially AAOx3, 
however his mental status acutely decompensated to obtundation 
with respiratory distress requiring intubation. Head CT at ___ 
notable for a subdural hematoma and subfalcine herniation.   He 
was then transferred to ___. Upon arrival in ___ ED he was 
noted to have fixed and dilated pupils, started on mannitol. 
Stat head CT demonstrated progression of herniation with found 
to have a large subdural hemorrhage with 1.5cm mid line shift 
with subfalcine herniation, left uncal herniation, and tonsillar 
herniation. Neurosurgery was consulted.  Given catastrophic 
brain bleed with no meaningful survivability, no neurological 
intervention was indicated.  On ___ cerebral flow study was 
performed, and the report finalized with absence of flow to the 
brain consistent with brain death.   He remained unresponsive 
without withdrawal to painful stimuli. Pupils were fixed and 
dilated with no evidence of cranial nerve functioning.  ___ 
declared brain dead at 5:19 pm. He remained on the ventilator 
until his family arrived at which point he was disconnected from 
the ventilator. 

 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Cyclobenzaprine 10 mg PO HS 
2. Ibuprofen 400 mg PO Q8H:PRN Pain - Moderate 
3. TraZODone 50 mg PO QHS 
4. Tamsulosin 0.4 mg PO QHS 
5. Montelukast 10 mg PO DAILY 
6. Meclizine 75 mg PO QHS 
7. Albuterol Inhaler 1 PUFF IH Q4H:PRN sob 

 
Discharge Medications:
EXPIRED
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Catastrophic Intracranial Hemorrhage
Brain Death
 
Discharge Condition:
EXPIRED
 
Discharge Instructions:
EXPIRED
 
Followup Instructions:
___